US06329455B1
Preoaration of Disodium 3,3′-Dithiodipropionate
A 1-liter polypropylene beaker was charged with a solution of 42 g (0.50 mole) of sodium hydrogen carbonate in 100 g of distilled water, followed by the slow addition of 52.5 g (0.25 mole) of 3,3′-dithiodipropionic acid, which required about 10 minutes. The resulting paste was spread on an evaporating tray and dried. The salt product was white-colored and melted above 225° C.

reactant | polypropylene | 1-liter | C(C(C)[*:2])[*:1]
reactant | sodium hydrogen carbonate | 0.50 mole, 42 g | C(O)([O-])=O.[Na+]
reactant | 3,3′-dithiodipropionic acid | 0.25 mole, 52.5 g | C(CCSSCCC(=O)O)(=O)O | C6H10O4S2
solvent | water | 100 g | O | H2O
product | Disodium 3,3′-Dithiodipropionate | C(CCSSCCC(=O)[O-])(=O)[O-].[Na+].[Na+] | InChI=1S/C6H10O4S2.2Na/c7-5(8)1-3-11-12-4-2-6(9)10;;/h1-4H2,(H,7,8)(H,9,10);;/q;2*+1/p-2
